US06995171B2
C. {4-Methyl-2-[7-(5-phenyl-1H-pyrazol-3-yloxy)-thieno[3,2-b]pyridin-2-yl]-thiazol-5-yl}-morpholin-4-yl-methanone
The title compound (37 mg, 17%) was prepared from [2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazol-5-yl]-morpholin-4-yl-methanone and 5-Phenyl-1,2-dihydro-pyrazol-3-one by a procedure analogous to Example 16 1. C25H21N5O3S2: APCI m/z 503.5 (pos.); 1H NMR (CD3OD): δ 8.55 (d, 1H, J=5.8 Hz), 8.00 (s, 1H), 7.72 (d, 2H, J=7.1 Hz), 7.46 (t, 2H, J=7.1 Hz), 7.41 (t, 1H, J=7.1 Hz), 7.08 (d, 1H, J=5.8 Hz), 6.53 (s, 1H), 3.71–3.60 (bm, 8H), 2.46 (s, 3H) ppm.

reactant | [2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazol-5-yl]-morpholin-4-yl-methanone | ClC1=C2C(=NC=C1)C=C(S2)C=2SC(=C(N2)C)C(=O)N2CCOCC2 | C16H14ClN3O2S2
reactant | 5-Phenyl-1,2-dihydro-pyrazol-3-one | C1(=CC=CC=C1)C1=CC(NN1)=O | C9H8N2O
product | {4-Methyl-2-[7-(5-phenyl-1H-pyrazol-3-yloxy)-thieno[3,2-b]pyridin-2-yl]-thiazol-5-yl}-morpholin-4-yl-methanone | 37 mg, 17% | CC=1N=C(SC1C(=O)N1CCOCC1)C1=CC2=NC=CC(=C2S1)OC1=NNC(=C1)C1=CC=CC=C1 | C25H21N5O3S2
